US06271238B1
(1) 1-Benzyloxycarbonylamino-2,2-dimethyloxy-1-phenylethane
N-Benzyloxycarbonylphenylglycinal (1.38 g, 5.12 mmol) was dissolved in methanol (2.6 ml), and trimethyl orthoformate (1.12 ml, 10.24 mmol) and camphor sulfonic acid (59.5 mg, 0.256 mmol) were added to it and stirred overnight at room temperature. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by column chromatography on alumina (50 g alumina, hexane/ethyl acetate=2/1) whereby the title compound (1.21 g, 77% yield) was obtained.

reactant | N-Benzyloxycarbonylphenylglycinal | 5.12 mmol, 1.38 g | C(C1=CC=CC=C1)OC(=O)N(CC=O)C1=CC=CC=C1 | C16H15NO3
reactant | trimethyl orthoformate | 10.24 mmol, 1.12 ml | C(OC)(OC)OC | C4H10O3
reactant | methanol | 2.6 ml | CO | CH4O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | camphor sulfonic acid | 0.256 mmol, 59.5 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 1-Benzyloxycarbonylamino-2,2-dimethyloxy-1-phenylethane | 1.21 g, 77% yield | C(C1=CC=CC=C1)OC(=O)NC(C(OC)OC)C1=CC=CC=C1 | C18H21NO4
